US04053470
v. 6-[m-(1-Pyrrolidinyl)phenyl]-1,2-dihydro-2-oxonicotinyl Chloride Hydrochloride.
The 6-[m-(1-Pyrrolidinyl)phenyl]-1,2-dihydro-2-oxonicotinic acid (1.9 g.) is suspended in 40 ml. thionyl chloride and stirred at room temperature for 4 hours. A trace of undissolved solid is removed by filtration and the filtrate is diluted with 500 ml. of hexane. A gum which forms at first changes to a tan solid on continued stirring. The solid 6-[m-(1-pyrrdidinyl)phenyl]-1,2-dihydro-2-oxonicotinyl chloride hydrochloride is collected quickly by filtration and dried over phosphorus pentoxide overnight in vacuo. The 1.8 g. of product so obtained is taken on the the next step without further purification.

reactant | 6-[m-(1-Pyrrolidinyl)phenyl]-1,2-dihydro-2-oxonicotinic acid | 1.9 g | N1(CCCC1)C=1C=C(C=CC1)C=1NC(C(C(=O)O)=CC1)=O | C16H16N2O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 6-[m-(1-Pyrrolidinyl)phenyl]-1,2-dihydro-2-oxonicotinyl Chloride Hydrochloride | Cl.N1(CCCC1)C=1C=C(C=CC1)C=1NC(C(CCl)=CC1)=O | InChI=1S/C16H17ClN2O.ClH/c17-11-13-6-7-15(18-16(13)20)12-4-3-5-14(10-12)19-8-1-2-9-19;/h3-7,10H,1-2,8-9,11H2,(H,18,20);1H
